US06080745
2-(Methylthio(4-(tert-butyloxycarbonyl)piperazin 1-yl)methylene-4,5-dihydro-2H-naphthalen-1-one (3.2 g, 8.2 mmol) and methylhydrazine (5 ml) were kept in ethanol (30 ml) for four days. Water (150 ml) was added, and the mixture extracted with ethyl acetate (3×50 ml). The combined organic layers were washed with brine, dried (MgSO4), evaporated in vacuo, and purified by flash chromatography, eluting with hexane:ethyl acetate (4:1 v/v) to give 3-(4-(tert-butyloxycarbonyl)piperazin-1-yl)-4,5-dihydro-1-methyl-1H-benzo[g]indazole (342 mg, 11%) as a colourless oil; 1H NMR (360 MHz, CDCl3) δ 1.52 (9H, s, tBu), 2.67 (2H, t, J=7.3 Hz, CCH2CH2C), 2.94 (2H, t, J=7.3 Hz, CCH2CH2C), 3.15 (4H, t, J=5.1 Hz, NCH2), 3.61 (4H, t, J=5.1 Hz, NCH2), 4.15 (3H, s, Me), 7.22-7.34 (3H, m, ArH), 7.55 (1H, d, J=7.7 Hz, H-9). Iradiation at δ 4.15 gave a positive nOe to the doublet at δ 7.55, and the reverse; and 3-(4-(tert-butyloxycarbonyl)piperazin-1-yl)-4,5-dihydro-2-methyl-2H-benzo[g]indazole (561 mg, 19%) as a white solid δ (360 MHz, CDCl3) 1.54 (9H, s, tBu), 2.86 (2H, t, J=7.8 Hz, CCH2CH2C), 2.95 (2H, t, J=7.8 Hz, CCH2CH2C), 3.08 (4H, t, J=4.9 Hz, NCH2), 3.60 (4H, t, J=4.9 Hz, NCH2), 7.20-7.30 (3H, m, ArH), 7.83 (1H, d, J=7.5 Hz, H-9).

reactant | Methylthio(4-(tert-butyloxycarbonyl)piperazin 1-yl)methylene-4,5-dihydro-2H-naphthalen-1-one | 8.2 mmol, 3.2 g | CSC1C(C(C2=CC=CCC2C1)=O)=CN1CCN(CC1)C(=O)OC(C)(C)C | C21H30N2O3S
reactant | methylhydrazine | 5 ml | CNN | CH6N2
reactant | Water | 150 ml | O | H2O
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 3-(4-(tert-butyloxycarbonyl)piperazin-1-yl)-4,5-dihydro-1-methyl-1H-benzo[g]indazole | 342 mg, 11% | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NN(C=2C3=C(CCC12)C=CC=C3)C | C21H28N4O2
